US07943609B2
1-[(1R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]-2-(chloromethyl)-1H-imidazo[4,5-c]quinoline (1.74 g, 3.18 mmol) was dissolved in 80 mL of CH2Cl2 and the solution was cooled to −78° C. under N2. Tetrabutylammonium fluoride (1.0 M solution in THF, 3.50 mL) was added slowly and the stirred reaction mixture was allowed to warm to ambient temperature overnight. The reaction mixture was then treated with an additional 0.3 mL of tetrabutylammonium fluoride solution and stirring was continued for 2 days. The reaction mixture was then treated with saturated NaHCO3 solution, and the layers were separated. The organic portion was washed with brine (4×20 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 2-5% MeOH/CHCl3) gave (11R)-11-(1-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline (1.14 g) as a yellow syrup.

reactant | 1-[(1R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]-2-(chloromethyl)-1H-imidazo[4,5-c]quinoline | 3.18 mmol, 1.74 g | [Si](C)(C)(C(C)(C)C)OC([C@@H](CO[Si](C)(C)C(C)(C)C)N1C(=NC=2C=NC=3C=CC=CC3C21)CCl)(C)C | C28H46ClN3O2Si2
reactant | Tetrabutylammonium fluoride | 1.0 M, 3.50 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrabutylammonium fluoride | 0.3 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | (11R)-11-(1-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline | 1.14 g | [Si](C)(C)(C(C)(C)C)OC(C)(C)[C@H]1COCC=2N1C1=C(C=NC3=CC=CC=C13)N2 | C22H31N3O2Si
